datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:6],48.367
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([S:14][H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])([S:14][H:19])[H:18],14.2256
[H:11].[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])[C:5]1([H:9])[H:10]>>[H:9][H:11].[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:10],0.0
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8],11.7152
[C:0](=[O:1])([H:2])[H:3].[N:4]=[C:5]=[O:6]>>[C:0](=[O:1])[H:3].[H:2][N:4]=[C:5]=[O:6],0.0
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:15])([H:3])[H:4].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17],7.1128
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:11][H:18],18.706664
[C:0](=[C:1][C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([C:6]([H:15])([H:16])[H:17])[C:5]1([H:13])[H:14])([H:7])[H:8],43.0952
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:7])([H:5])[H:6],79.3286
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:11])[H:10])([H:8])[H:9],58.6597
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[O:14][O:15]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[O:14][O:15],-4.47688
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8][H:12])[H:16])([H:9])([H:10])[H:11],114.2232
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[H:8])([H:6])[H:7],50.7938
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[O:6][O:7][H:11],125.932124
[C:4]([C:5]([C:6]([C:7]([H:14])([H:15])[H:16])([O:8][H:17])[H:13])([H:11])[H:12])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([C:6]([C:7]([H:14])([H:15])[H:16])([O:8][H:17])[H:13])([H:11])[H:12])([H:9])[H:10].[O:0][O:1][H:3],1.92464
[C:0](=[C:1]1[C:2]([H:12])[C:3]([H:13])([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:12])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11].[H:13],182.468424
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8])([H:6])[H:7],7.61488
